US09284263B1
To a solution of (S)-2-(Isoindolin-2-yl) but-3-en-1-ol (FIG. 2, No. 3)(2.0 g, 9.2 mmol) in 40 mL DMF was successively added NaH (442 mg, 18.4 mmol) at 0° C., stirred for ten minutes followed by addition of MeI (1.73 mL, 27.6 mmol) and then the reaction mixture was stirred at room temperature for 3 h. The reaction mixture was quenched by addition of ice cold water, extracted with diethyl ether, washed with brine and dried over anhydrous MgSO4. The organic layer was then concentrated in vacuo and purified by silica gel column chromatography using ethyl acetate/hexane (1:9) as eluent to furnish 1.83 g (86%) yield of (S)-2-(1-Methoxybut-3-en-2-yl) isoindoline (FIG. 2, No. 4) as a crystalline white solid. [Rf=0.56, ethyl acetate/hexane (3:7)]; [α]D25 −75.1 (c 1.0, CH2Cl2); IR (CH2Cl2) v: 1773, 1708, 1468, and 1384 cm−1; 1H NMR (400 MHz, CDCl3) δ:3.3 (s, 3H), 3.6 (m, 1H), 4.06 (m, 1H), 5.0 (m, 1H), 5.22-5.31 (m, 2H), 6.12 (ddd, J=7.32 Hz, 1H), 7.68 (dd, J=2.76, 5.48 Hz, 2H), 7.80 (dd, J=2.76, 5.48 Hz, 2H); 13C NMR (100 MHz, CDCl3) δ: 52.8, 58.7, 71.3, 119.0, 123.2, 131.9, 132.1, 133.9, 168.0; HRMS (ESI-TOF) m/z calcd for C13H13NO3Na [M+Na+] 254.080. Found 254.079.

reactant | (S)-2-(Isoindolin-2-yl) but-3-en-1-ol | C1N(CC2=CC=CC=C12)[C@H](CO)C=C | C12H15NO
reactant | NaH | 18.4 mmol, 442 mg | [H-].[Na+]
reactant | MeI | 27.6 mmol, 1.73 mL | CI | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (S)-2-(1-Methoxybut-3-en-2-yl) isoindoline | COC[C@H](C=C)N1CC2=CC=CC=C2C1 | C13H17NO
